US04288437
(E)-2-[(Amino)-(2-bromo-phenyl)methylene]-benzo[b]thiophen-3(2H)-one
Prepared as in Example 1 from 2-(2-bromobenzoyl)-benzo[b]-thiophen-3-ol, phosphorus(V) chloride and concentrated aqueous ammonia with a yield of 42% of theory. M.p. 143°-144° C. (petroleum ether/ethyl acetate 1:1).

reactant | 2-(2-bromobenzoyl)-benzo[b]-thiophen-3-ol | BrC1=C(C(=O)C2=C(C3=C(S2)C=CC=C3)O)C=CC=C1 | C15H9BrO2S
reactant | phosphorus(V) chloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | ammonia | N | H3N
product | (E)-2-[(Amino)-(2-bromo-phenyl)methylene]-benzo[b]thiophen-3(2H)-one | yield of 42% | N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=C(C=CC=C2)Br | C15H10BrNOS
